US04556658
3.5 g (0.01 mol) of 1-cyclopropyl-6,8-difluoro-7-(piperazin-1-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid are dissolved in a mixture of 0.4 g of sodium hydroxide in 20 ml of water, and a solution of 1 g of succinic anhydride in 10 ml of dioxane, and a solution of 0.4 g of sodium hydroxide in 10 ml of water, are simultaneously added dropwise at 20° C. After standing for 12 hours, the mixture is adjusted to pH 5 with 2N hydrochloric acid, and the precipitate is filtered off under suction, washed with water, heated with methanol, filtered off under suction and dried. 2.5 g of 7-[4-(3-carboxypropionyl)-piperazin-1-yl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid having a decomposition temperature of 217°-219° C. are obtained.

reactant | 1-cyclopropyl-6,8-difluoro-7-(piperazin-1-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.01 mol, 3.5 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCNCC1)F)=O)C(=O)O | C17H17F2N3O3
reactant | succinic anhydride | 1 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | sodium hydroxide | 0.4 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | sodium hydroxide | 0.4 g | [OH-].[Na+]
product | 7-[4-(3-carboxypropionyl)-piperazin-1-yl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 2.5 g | C(=O)(O)CCC(=O)N1CCN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C21H21F2N3O6
